US07605269B2
To dry methanol (190 mL) is carefully added K-tert.-butylate (18.68 g, 166 mmol) followed by hydroxylamine hydrochloride (9.92 g, 143 mmol). The suspension is stirred for 30 min before 3,5-dimethyl-4-hydroxybenzonitrile (7.00 g, 147 mmol) is added. The mixture is refluxed for 32 h, then the suspension is diluted by adding 2 N aq. HCl. The solution is extracted twice with DCM (100 mL). The aq. layer is basified (pH 9) by adding solid NaHCO3 and extracted five times with DCM followed by four times with EA. The combined organic layers are dried over Na2SO4 and evaporated to dryness to give 4,N-dihydroxy-3,5-dimethyl-benzamidine (7.9 g) as a colourless solid; LC-MS: tR=0.62 min, [M+1]+=181.14.

reactant | hydroxylamine hydrochloride | 143 mmol, 9.92 g | Cl.NO
reactant | 3,5-dimethyl-4-hydroxybenzonitrile | 147 mmol, 7.00 g | CC=1C=C(C#N)C=C(C1O)C | C9H9NO
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 190 mL | CO | CH4O
product | 4,N-dihydroxy-3,5-dimethyl-benzamidine | 7.9 g | OC1=C(C=C(C(=N)NO)C=C1C)C | C9H12N2O2
